2138-10-10 07:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GI bleed
   24 Hour Events:
   Stable HCT overnight > 31
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-10**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 50 (49 - 68) bpm
   BP: 114/41(60) {104/38(55) - 133/70(82)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                      5 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                      5 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    330 mL
   Urine:
                                                                    775 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   (Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, ? mild splenomegaly
   Extremities: Right: Absent, Left: Absent
   Skin:  warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: all ext  \
   Labs / Radiology
   11.0 g/dL
   58 K/uL
   79 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   34 mg/dL
   111 mEq/L
   145 mEq/L
   32.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2138-10-9**]  08:50 PM
                             [**2138-10-10**]  04:00 AM
   WBC
   6.7
   5.0
   Hct
   33.8
   32.1
   Plt
   68
   58
   Cr
   1.6
   1.5
   Glucose
   95
   79
   Other labs: PT / PTT / INR:13.1/30.8/1.1, ALT / AST:24/37, Alk Phos / T
   Bili:84/1.4, Differential-Neuts:73.4 %, Lymph:17.3 %, Mono:5.6 %,
   Eos:3.5 %, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.6 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   CXR [**10-9**]:
   Assessment and Plan
   86 yo with UGIB, disital duodenum vs jejenum on tagged RBC today, s/p
   12U PRBC over last several days at OSH, hemodynamically stable and
   awaiting evaluation by GI.
   >UGIB: by report localized via tagged RBC at OSH. Patient remains NPO
   and awaiting GI evaluation, ? push enteroscopy. She may in addition
   require evaluation by IR/surgery if she continues to bleed and we are
   unable to localize a source. Notably she had a endoscopy at OSH which
   showed some antral bleeding and capsule study which showed bleeding in
   the duodenum/jejunum. She has a hx of H. pylor by report, uclear if it
   has been treated.
   - PIV access (hemodynamically stable)
   - 4 units typed and cross matched
   - IV PPI
   - NPO for now pending GI eval.
   - check H. pylori Ab
   - Goal Hct > 30, Plt > 50, INR<1.5
   - CT Abd/pelv (no IV contrast) once procedures completed if no source
   of bleed
   >Thrombocytopenia: unknown duration or etiology. Notably normal LFTs
   and LDH .  Also with hx of EtOH abuse ? marrow suppression.
   - CT abd as above.
   - peripheral smear
   >CHF:  by report EF is
normal
 and moderate pulm htn.  Will follow her
   closely for volume status.
   - hold for now
   > Renal failure: had a Cr 1.7-1.9 at OSH.
   - cont to monitor Cr and electrolytes
   >EtOH: several drinks per day. Will follow closely for signs of
   withdrawl (she hopefully is outside the window, admitted to OSH on
   [**10-4**])
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO pending GI eval
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-10-9**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/I
   Disposition :ICU
   Total time spent: 35 minutes

2138-10-10 08:00:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - surgery consulted for bleed.
   - brady to mid 40s during sleep.
   - denies complaints, slept well.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-10**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 57 (49 - 68) bpm
   BP: 134/51(64) {104/38(55) - 134/70(82)} mmHg
   RR: 13 (13 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                      5 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                      5 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    330 mL
   Urine:
                                                                    775 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General: Very pleasant female, NAD, comfortable in bed.
   HEENT: MMM.  Neck supple.
   Chest: bilat basilar dullness with few crackles L>R.
   Heart: RRR S1 S2, [**1-8**] SM at LLSB.
   Abdomen:+BS soft NT ND, ?splenomegaly.
   Extrem: trace bilat edema.
   Labs / Radiology
   58 K/uL
   11.0 g/dL
   79 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   34 mg/dL
   111 mEq/L
   145 mEq/L
   32.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2138-10-9**]  08:50 PM
                             [**2138-10-10**]  04:00 AM
   WBC
   6.7
   5.0
   Hct
   33.8
   32.1
   Plt
   68
   58
   Cr
   1.6
   1.5
   Glucose
   95
   79
   Other labs: PT / PTT / INR:13.1/30.8/1.1, ALT / AST:24/37, Alk Phos / T
   Bili:84/1.4, Differential-Neuts:73.4 %, Lymph:17.3 %, Mono:5.6 %,
   Eos:3.5 %, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.6 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: TSH 5.1, fT4 1.2, B12 1085, folate >20.
   ferritin 209.
   Assessment and Plan
   86 F with PMH significant for peptic ulcer disease, hypertension,
   hypothyroidism, CHF; transfer from OSH for management of GI bleed
   suspected to initiate from distal duodenum/proximal jejunum.
   # GI bleed.  Patient with both melena and BRBPR per OSH report.  EGD
   without acute bleeding at OSH; tagged scan with ?duodenal bleeding,
   consistent with capsule endoscopy results.
   - GI seeing, right now plan to push enteroscopy today
   - Surgery consult appreciated.  Consider IR consult.
   - transfuse for < 30 since actively bleeding.
   - Support INR (<1.5) and platelets (>50)
   - hold antihypertensives.
   - check H.pylori antibody.
   - IV PPI gtt.
   - CT abdomen vs. ultrasound to eval for mass lesions etc.
   # Anemia.  Predominantly acute blood loss anemia.  However, was
   macrocytic on initial presentation (?med vs. nutritional deficiency vs.
   high retics).  Retics not checked on OSH labs.  B12 and folate normal.
   TSH slightly elevated, but free T4 WNL..
   - Continue Q4-6 hour hct checks.
   # Thrombocytopenia.  Reportedly received platelets today at OSH.
   Normal (though low normal) at presentation to OSH, likely consumptive
   losses from active bleed.
   - get older baseline with PCP [**Name Initial (PRE) 2445**].
   - goal > 50 while actively bleeding.
   - check peripheral smear.
   - check abdominal u/s vs. CT to assess splenomegaly.
   # CHF.  Hyperdynamic function per OSH notes on recent echo.  Also with
   TR and PA hypertension per notes, unclear etiology.
   - Obtain echo report.
   - Hold antiHTNs as above.
   - Will likely need lasix prn with blood products.
   # CKD.  Baseline unknown but stable in 1.7-1.9 range at [**Hospital1 **].
   - PCP [**Name Initial (PRE) 2445**].
   - continue to trend.
   - atenolol likely not best beta blocker for this patient.
   # Hypertension.  Has been getting meds at [**Hospital1 **] and BP tolerating
   well, but will continue to hold here.
   # Hypothyroidism.  TSH slightly elevated, free T4 WNL.  Continue
   levothyroxine.
   # Anxiety. Can add BZs at low dose prn as per home regimen if needed.
   # Bradycardia.  Asymptomatic during sleep.  On atenolol.  Will continue
   to hold BB and follow.
   # EtOH use.  [**1-6**] drinks per day.
   -          consider CIWA, though quite far out now.
   -          Start MVI.
   ICU Care
   Nutrition:
   Comments: NPO until decisions re: procedures.
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-10-9**] 10:00 PM
   Consider CVL if access poor, but quite stable right now.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2138-10-11 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2138-10-10**] 05:07 PM
   - Endoscopy by GI showed multiple duodenal ulcers which were
   cauterized.  Recommended checking a gastrin level for eval of ZE and
   checking h. pylori serologies.
   - Hct stable
   - got hydrated and mucomyst in anticipation of CT scan today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-11**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 47 (46 - 62) bpm
   BP: 126/44(63) {120/39(60) - 162/71(90)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                  1,273 mL
                                                                  1,176 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,153 mL
                                                                  1,056 mL
   Blood products:
   Total out:
                                                                  1,084 mL
                                                                    410 mL
   Urine:
                                                                  1,084 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    189 mL
                                                                    766 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   57 K/uL
   11.4 g/dL
   65 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   113 mEq/L
   143 mEq/L
   33.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2138-10-9**]  08:50 PM
                             [**2138-10-10**]  04:00 AM
                             [**2138-10-10**]  04:51 PM
                             [**2138-10-11**]  04:41 AM
   WBC
   6.7
   5.0
   5.1
   Hct
   33.8
   32.1
   33.6
   33.5
   Plt
   68
   58
   64
   57
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   79
   65
   Other labs: PT / PTT / INR:13.1/30.8/1.1, ALT / AST:20/38, Alk Phos / T
   Bili:106/1.1, Differential-Neuts:73.4 %, Lymph:17.3 %, Mono:5.6 %,
   Eos:3.5 %, Albumin:2.7 g/dL, LDH:200 IU/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   86 F with PMH significant for peptic ulcer disease, hypertension,
   hypothyroidism, CHF; transfer from OSH for management of GI bleed
   suspected to initiate from distal duodenum/proximal jejunum.
   # GI bleed.  Patient with both melena and BRBPR per OSH report.  EGD
   without acute bleeding at OSH; tagged scan with ?duodenal bleeding,
   consistent with capsule endoscopy results.
   - GI seeing, right now plan to push enteroscopy today
   - Surgery consult appreciated.  Consider IR consult.
   - transfuse for < 30 since actively bleeding.
   - Support INR (<1.5) and platelets (>50)
   - hold antihypertensives.
   - check H.pylori antibody.
   - IV PPI gtt.
   - CT abdomen vs. ultrasound to eval for mass lesions etc.
   # Anemia.  Predominantly acute blood loss anemia.  However, was
   macrocytic on initial presentation (?med vs. nutritional deficiency vs.
   high retics).  Retics not checked on OSH labs.  B12 and folate normal.
   TSH slightly elevated, but free T4 WNL..
   - Continue Q4-6 hour hct checks.
   # Thrombocytopenia.  Reportedly received platelets today at OSH.
   Normal (though low normal) at presentation to OSH, likely consumptive
   losses from active bleed.
   - get older baseline with PCP [**Name Initial (PRE) 2445**].
   - goal > 50 while actively bleeding.
   - check peripheral smear.
   - check abdominal u/s vs. CT to assess splenomegaly.
   # CHF.  Hyperdynamic function per OSH notes on recent echo.  Also with
   TR and PA hypertension per notes, unclear etiology.
   - Obtain echo report.
   - Hold antiHTNs as above.
   - Will likely need lasix prn with blood products.
   # CKD.  Baseline unknown but stable in 1.7-1.9 range at [**Hospital1 **].
   - PCP [**Name Initial (PRE) 2445**].
   - continue to trend.
   - atenolol likely not best beta blocker for this patient.
   # Hypertension.  Has been getting meds at [**Hospital1 **] and BP tolerating
   well, but will continue to hold here.
   # Hypothyroidism.  TSH slightly elevated, free T4 WNL.  Continue
   levothyroxine.
   # Anxiety. Can add BZs at low dose prn as per home regimen if needed.
   # Bradycardia.  Asymptomatic during sleep.  On atenolol.  Will continue
   to hold BB and follow.
   # EtOH use.  [**1-6**] drinks per day.
   -          consider CIWA, though quite far out now.
   -          Start MVI.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-10-10**] 05:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-10-11 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2138-10-10**] 05:07 PM: multiple duodenal ulcers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-11**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 47 (46 - 62) bpm
   BP: 126/44(63) {120/39(60) - 162/71(90)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                  1,273 mL
                                                                  1,203 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,153 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                  1,084 mL
                                                                    410 mL
   Urine:
                                                                  1,084 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    189 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   57 K/uL
   65 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   113 mEq/L
   143 mEq/L
   33.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2138-10-9**]  08:50 PM
                             [**2138-10-10**]  04:00 AM
                             [**2138-10-10**]  04:51 PM
                             [**2138-10-11**]  04:41 AM
   WBC
   6.7
   5.0
   5.1
   Hct
   33.8
   32.1
   33.6
   33.5
   Plt
   68
   58
   64
   57
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   79
   65
   Other labs: PT / PTT / INR:13.1/30.8/1.1, ALT / AST:20/38, Alk Phos / T
   Bili:106/1.1, Differential-Neuts:73.4 %, Lymph:17.3 %, Mono:5.6 %,
   Eos:3.5 %, Albumin:2.7 g/dL, LDH:200 IU/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   86 yo with UGIB, disital duodenum vs jejenum on tagged RBC today, s/p
   12U PRBC over last several days at OSH, hemodynamically stable with
   multiple duodenal ulcers which were cauterized yesterday and has
   remained hemodynamically stable.
    >UGIB: Multiple duodenal ulcers s/p cautery [**10-10**], remains stable.
   Differential includes  Zollinger-[**Doctor Last Name 1350**] syndrome vs H. pylori. Has
   continued to do well with no additional transfusion requirement.
   - PIV access (hemodynamically stable)
   - 4 units typed and cross matched
   - IV bid PPI
   - f/u H. pylori Ab and gastrin level
   - Goal Hct > 30, Plt > 50, INR<1.5
   - CT Abd/pelv (no IV contrast)  given concern for Zollinger-[**Doctor Last Name 1350**]
   >Thrombocytopenia: unknown duration or etiology. Notably normal LFTs
   and LDH .  Also with hx of EtOH abuse ? marrow suppression.
   - CT abd as above (eval for splenomeg).
   >CHF:  by report EF is
normal
 and moderate pulm htn.  Will follow her
   closely for volume status.
   -  can add back out patient regimen as she tolerates (atenolol will be
   added back first)
    > Renal failure: had a Cr 1.7-1.9 at OSH.
   - cont to monitor Cr and electrolytes
   - HCO3  and fluids in prep for CT scan
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: PO diet after CT scan.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-10-10**] 05:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor as long as repeat hct stable
   Total time spent: 35 minutes